US04540428
Preparation of N-(3-Bromopropyl)Phosphoric Triamide
The crude 3-bromopropylphosphoramidic dichloride was added to a solution of 10 g of ammonia in 125 mL CH2Cl2 at -30° C. The resulting mixture of product and NH4Cl weighed 19.4 g. Extraction with CH2Cl2 gave a material which slowly discolored over several days, mp. 60°-65° C.

reactant | 3-bromopropylphosphoramidic dichloride | BrCCCNP(=O)(Cl)Cl | C3H7BrCl2NOP
reactant | ammonia | 10 g | N | H3N
reactant | NH4Cl | [NH4+].[Cl-]
solvent | CH2Cl2 | 125 mL | C(Cl)Cl | CH2Cl2
product | N-(3-Bromopropyl)Phosphoric Triamide | BrCCCNP(N)(N)=O | C3H11BrN3OP
